### PR TITLE
[Merged by Bors] - chore(GroupTheory/Torsion): rename `IsTorsion` to `IsMulTorsion`

### PR DESCRIPTION
**Pull request by tb65536**
`GroupTheory/Torsion.lean` has some bad to_additive translations. This PR fixes this by renaming `Monoid.IsTorsion` to `IsMulTorsion` and `AddMonoid.IsTorsion` to `IsAddTorsion`. This also aligns better with `IsMulTorsionFree` and `IsAddTorsionFree`.

This PR has a lot of deprecations, but you can check the lean-aware declarations diff to make sure I didn't miss anything.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by Multramate** [comment]
`Monoid.IsTorsionFree` and `AddMonoid.IsTorsionFree` are not in this file but are in the module docstrings - can you remove them since you're here?

File: Mathlib/GroupTheory/FiniteAbelian/Basic.lean [hunk 1]
```diff
@@ -158,15 +158,15 @@ lemma equiv_directSum_zmod_of_finite' (G : Type*) [AddCommGroup G] [Finite G] :
   rintro ⟨i, hi⟩
   exact one_lt_pow₀ (hp _).one_lt hi
 
-theorem finite_of_fg_torsion [hG' : AddGroup.FG G] (hG : AddMonoid.IsTorsion G) : Finite G :=
+theorem finite_of_fg_torsion [hG' : AddGroup.FG G] (hG : IsAddTorsion G) : Finite G :=
```
Comment (Multramate) [inline Mathlib/GroupTheory/FiniteAbelian/Basic.lean]: Maybe?
```suggestion
theorem finite_of_fg_isAddTorsion [hG' : AddGroup.FG G] (hG : IsAddTorsion G) : Finite G :=
```

File: Mathlib/GroupTheory/FiniteAbelian/Basic.lean [hunk 2]
```diff
@@ -158,15 +158,15 @@ lemma equiv_directSum_zmod_of_finite' (G : Type*) [AddCommGroup G] [Finite G] :
...
   @Module.finite_of_fg_torsion _ _ _ (Module.Finite.iff_addGroup_fg.mpr hG') <|
-    AddMonoid.isTorsion_iff_isTorsion_int.mp hG
+    isAddTorsion_iff_isTorsion_int.mp hG
 
 end AddCommGroup
 
 namespace CommGroup
 
-theorem finite_of_fg_torsion [CommGroup G] [Group.FG G] (hG : Monoid.IsTorsion G) : Finite G :=
+theorem finite_of_fg_torsion [CommGroup G] [Group.FG G] (hG : IsMulTorsion G) : Finite G :=
```
Comment (Multramate) [inline Mathlib/GroupTheory/FiniteAbelian/Basic.lean]: Similarly
```suggestion
theorem finite_of_fg_isMulTorsion [CommGroup G] [Group.FG G] (hG : IsMulTorsion G) : Finite G :=
```
Weird that the other one isn't just a `to_additive` version of this.

File: Mathlib/GroupTheory/Torsion.lean [hunk 3]
```diff
@@ -46,91 +46,123 @@ periodic group, aperiodic group, torsion subgroup, torsion abelian group
...
-def IsTorsion :=
+def IsMulTorsion :=
   ∀ g : G, IsOfFinOrder g
 
+@[deprecated (since := "2026-07-01")] alias Monoid.IsTorsion := IsMulTorsion
+@[deprecated (since := "2026-07-01")] alias AddMonoid.IsTorsion := IsAddTorsion
+
 /-- A monoid is not a torsion monoid if it has an element of infinite order. -/
 @[to_additive (attr := simp)
 /-- An additive monoid is not a torsion monoid if it has an element of infinite order. -/]
```
Comment (Multramate) [inline Mathlib/GroupTheory/Torsion.lean]:
```suggestion
/-- An additive monoid is not a torsion additive monoid if it has an element of infinite order. -/]
```

File: Mathlib/GroupTheory/Torsion.lean [hunk 4]
```diff
@@ -46,91 +46,123 @@ periodic group, aperiodic group, torsion subgroup, torsion abelian group
...
+@[deprecated (since := "2026-07-01")] alias Monoid.not_isTorsion_iff := not_isMulTorsion_iff
+@[deprecated (since := "2026-07-01")] alias AddMonoid.not_isTorsion_iff := not_isAddTorsion_iff
+
+end
 
 open Monoid
 
 /-- Torsion monoids are really groups. -/
 @[to_additive (attr := implicit_reducible)
 /-- Torsion additive monoids are really additive groups -/]
```
Comment (Multramate) [inline Mathlib/GroupTheory/Torsion.lean]:
```suggestion
/-- Torsion additive monoids are really additive groups. -/]
```

File: Mathlib/GroupTheory/Torsion.lean [hunk 5]
```diff
@@ -46,91 +46,123 @@ periodic group, aperiodic group, torsion subgroup, torsion abelian group
...
   obtain ⟨g, rfl⟩ := hf h
   exact f.isOfFinOrder (tG g)
 
+@[deprecated (since := "2026-06-30")] alias IsTorsion.of_surjective := IsMulTorsion.of_surjective
+@[deprecated (since := "2026-06-30")] alias AddIsTorsion.of_surjective := IsAddTorsion.of_surjective
+
 /-- Torsion groups are closed under extensions. -/
-@[to_additive AddIsTorsion.extension_closed
+@[to_additive
 /-- Additive torsion groups are closed under extensions. -/]
```
Comment (Multramate) [inline Mathlib/GroupTheory/Torsion.lean]: We should be consistent with either "torsion additive group/monoid" or "additive torsion group/monoid"

File: Mathlib/GroupTheory/Torsion.lean [hunk 6]
```diff
@@ -46,91 +46,123 @@ periodic group, aperiodic group, torsion subgroup, torsion abelian group
...
 
+@[deprecated (since := "2026-06-30")] alias IsTorsion.extension_closed :=
+  IsMulTorsion.extension_closed
+@[deprecated (since := "2026-06-30")] alias AddIsTorsion.extension_closed :=
+  IsAddTorsion.extension_closed
+
 /-- The image of a quotient is torsion iff the group is torsion. -/
-@[to_additive AddIsTorsion.quotient_iff
+@[to_additive
 /-- The image of a quotient is additively torsion iff the group is torsion. -/]
```
Comment (Multramate) [inline Mathlib/GroupTheory/Torsion.lean]:
```suggestion
/-- The image of a quotient is torsion iff the additive group is torsion. -/]
```

File: Mathlib/GroupTheory/Torsion.lean [hunk 7]
```diff
@@ -46,91 +46,123 @@ periodic group, aperiodic group, torsion subgroup, torsion abelian group
...
+    (tN : IsMulTorsion N) : IsMulTorsion H ↔ IsMulTorsion G :=
+  ⟨fun tH ↦ IsMulTorsion.extension_closed hN tH tN, fun tG ↦ IsMulTorsion.of_surjective hf tG⟩
+
+@[deprecated (since := "2026-06-30")] alias IsTorsion.quotient_iff := IsMulTorsion.quotient_iff
+@[deprecated (since := "2026-06-30")] alias AddIsTorsion.quotient_iff := IsAddTorsion.quotient_iff
 
 /-- If a group exponent exists, the group is torsion. -/
-@[to_additive ExponentExists.is_add_torsion
+@[to_additive
 /-- If a group exponent exists, the group is additively torsion. -/]
```
Comment (Multramate) [inline Mathlib/GroupTheory/Torsion.lean]:
```suggestion
/-- If a group exponent exists, the additive group is torsion. -/]
```

File: Mathlib/GroupTheory/Torsion.lean
Comment (Multramate) [inline Mathlib/GroupTheory/Torsion.lean]: This name should be autogenerated? Either that or we call them `mulTorsion` and `addTorsion`.

Comment (Multramate) [inline Mathlib/GroupTheory/Torsion.lean]: Maybe?
```suggestion
(Note that by `Monoid.IsMulTorsion.group` torsion monoids are truthfully groups.)
```

Comment (Multramate) [inline Mathlib/GroupTheory/Torsion.lean:301]: These are identical, so one can be removed

File: Mathlib/GroupTheory/Torsion.lean [hunk 8]
```diff
@@ -261,38 +305,49 @@ end CommMonoid
...
+@[deprecated (since := "2026-07-01")] alias Monoid.IsTorsion.torsionMulEquiv_symm_apply_coe :=
+  IsMulTorsion.torsionMulEquiv_symm_apply_coe
+@[deprecated (since := "2026-07-01")] alias AddMonoid.IsTorsion.torsionAddEquiv_symm_apply_coe :=
+  IsAddTorsion.torsionAddEquiv_symm_apply_coe
 
 /-- Torsion submonoids of a torsion submonoid are isomorphic to the submonoid. -/
-@[to_additive (attr := simp) AddCommMonoid.Torsion.ofTorsion
+@[to_additive (attr := simp)
 /-- Additive torsion submonoids of an additive torsion submonoid are
 isomorphic to the submonoid. -/]
```
Comment (Multramate) [inline Mathlib/GroupTheory/Torsion.lean]:
```suggestion
/-- Additive torsion submonoids of an additive torsion submonoid are
isomorphic to the additive submonoid. -/]
```

File: Mathlib/GroupTheory/Torsion.lean [hunk 9]
```diff
@@ -261,38 +305,49 @@ end CommMonoid
...
-def Torsion.ofTorsion : torsion (torsion G) ≃* torsion G :=
-  Monoid.IsTorsion.torsionMulEquiv CommMonoid.torsion.isTorsion
+def CommMonoid.Torsion.ofTorsion : torsion (torsion G) ≃* torsion G :=
```
Comment (Multramate) [inline Mathlib/GroupTheory/Torsion.lean:356]: Seems weird to have a `CommMonoid.Torsion` namespace

File: Mathlib/GroupTheory/Torsion.lean
Comment (Multramate) [inline Mathlib/GroupTheory/Torsion.lean]: Name should be auto generated

Comment (Multramate) [inline Mathlib/GroupTheory/Torsion.lean]:
```suggestion
/-- The additive torsion submonoid of an abelian group equals the torsion
subgroup as an additive submonoid. -/]
```

File: Mathlib/GroupTheory/Torsion.lean [hunk 10]
```diff
@@ -197,7 +239,7 @@ variable {G}
 
 /-- Torsion submonoids are torsion. -/
 @[to_additive /-- Additive torsion submonoids are additively torsion. -/]
```
Comment (Multramate) [inline Mathlib/GroupTheory/Torsion.lean]: I just think "additively torsion" sounds weird
```suggestion
@[to_additive /-- Additive torsion submonoids are torsion. -/]
```

**Review by Multramate — COMMENTED** [review]
Thank you so much for this!

File: Mathlib/GroupTheory/Torsion.lean (hunk 9 above)
Comment (tb65536) [reply Mathlib/GroupTheory/Torsion.lean:356]: Otherwise there isn't a good way to disambiguate the additive version (until we rename `torsion`, but that's a separate refactor).

File: Mathlib/GroupTheory/FiniteAbelian/Basic.lean (hunk 1 above)
Comment (tb65536) [reply Mathlib/GroupTheory/FiniteAbelian/Basic.lean]: This sounds like you're requiring the torsion to be finitely generated.

Comment (tb65536) [reply Mathlib/GroupTheory/FiniteAbelian/Basic.lean]: I switched to `finite_of_fg_isMulTorsion` instead.

File: Mathlib/GroupTheory/FiniteAbelian/Basic.lean (hunk 2 above)
Comment (tb65536) [reply Mathlib/GroupTheory/FiniteAbelian/Basic.lean]: It's because one is proved from the other.

File: Mathlib/GroupTheory/Torsion.lean
Comment (tb65536) [reply Mathlib/GroupTheory/Torsion.lean]: Yes, but that's a separate refactor.

Comment (tb65536) [reply Mathlib/GroupTheory/Torsion.lean:301]: No, I think that will result in the additive version not having a docstring.

File: Mathlib/GroupTheory/Torsion.lean (hunk 9 above)
Comment (Multramate) [reply Mathlib/GroupTheory/Torsion.lean:356]: Yeah I guess we can have that in a separate refactor

File: Mathlib/GroupTheory/Torsion.lean [hunk 11]
```diff
@@ -46,106 +46,149 @@ periodic group, aperiodic group, torsion subgroup, torsion abelian group
...
+@[deprecated (since := "2026-07-01")] alias not_isMulTorsionFree_of_isTorsion :=
+  not_isMulTorsionFree_of_isMulTorsion
+@[deprecated (since := "2026-07-01")] alias not_isAddTorsionFree_of_isTorsion :=
+  not_isAddTorsionFree_of_isAddTorsion
+
 /-- A nontrivial torsion-free abelian group is not torsion. -/
-@[to_additive /-- A nontrivial additive torsion-free abelian group is not torsion. -/]
-lemma not_isTorsion_of_isMulTorsionFree [Nontrivial G] [IsMulTorsionFree G] : ¬ IsTorsion G :=
-  (not_isMulTorsionFree_of_isTorsion · ‹_›)
+@[to_additive /-- A nontrivial torsion additive-free abelian group is not torsion. -/]
```
Comment (Multramate) [inline Mathlib/GroupTheory/Torsion.lean]:
```suggestion
@[to_additive /-- A nontrivial torsion-free additive abelian group is not torsion. -/]
```

File: Mathlib/GroupTheory/Torsion.lean [hunk 12]
```diff
@@ -308,19 +371,23 @@ def torsion : Subgroup G :=
   { CommMonoid.torsion G with inv_mem' := fun hx ↦ IsOfFinOrder.inv hx }
 
 /-- The torsion submonoid of an abelian group equals the torsion subgroup as a submonoid. -/
-@[to_additive add_torsion_eq_add_torsion_submonoid
-/-- The additive torsion submonoid of an abelian group equals the torsion
+@[to_additive
+/-- The torsion additive submonoid of an abelian group equals the torsion
 subgroup as a submonoid. -/]
```
Comment (Multramate) [inline Mathlib/GroupTheory/Torsion.lean]:
```suggestion
additive subgroup as an additive submonoid. -/]
```

File: Mathlib/GroupTheory/Torsion.lean [hunk 13]
```diff
@@ -439,7 +512,7 @@ open CommGroup (torsion)
 
 /-- Quotienting a group by its torsion subgroup yields a torsion-free group. -/
 @[to_additive
-/-- Quotienting a group by its additive torsion subgroup yields an additive torsion-free group. -/]
+/-- Quotienting a group by its torsion additive subgroup yields an torsion-free additive group. -/]
```
Comment (Multramate) [inline Mathlib/GroupTheory/Torsion.lean]:
```suggestion
/-- Quotienting an additive group by its torsion additive subgroup yields a torsion-free additive group. -/]
```

File: Mathlib/GroupTheory/Torsion.lean [hunk 14]
```diff
@@ -178,7 +224,7 @@ namespace CommMonoid
 
 /-- The torsion submonoid of a commutative monoid.
 
-(Note that by `Monoid.IsTorsion.group` torsion monoids are truthfully groups.)
+(Note that by `Monoid.IsMulTorsion.group` torsion monoids are truthfully groups.)
```
Comment (Multramate) [inline Mathlib/GroupTheory/Torsion.lean]: I think `Monoid` is gone now? Not 100% sure.
```suggestion
(Note that by `IsMulTorsion.group` torsion monoids are truthfully groups.)
```

File: Mathlib/GroupTheory/Torsion.lean [hunk 15]
```diff
@@ -46,106 +46,149 @@ periodic group, aperiodic group, torsion subgroup, torsion abelian group
...
+@[deprecated (since := "2026-07-01")] alias IsTorsion.addGroup := IsAddTorsion.addGroup
+
 section Group
 
 variable [Group G] {N : Subgroup G} [Group H]
 
 /-- Subgroups of torsion groups are torsion groups. -/
-@[to_additive /-- Subgroups of additive torsion groups are additive torsion groups. -/]
-theorem IsTorsion.subgroup (tG : IsTorsion G) (H : Subgroup G) : IsTorsion H := fun h ↦
+@[to_additive /-- Subgroups of torsion additive groups are torsion additive groups. -/]
```
Comment (Multramate) [inline Mathlib/GroupTheory/Torsion.lean]:
```suggestion
@[to_additive /-- Additive subgroups of torsion additive groups are torsion additive groups. -/]
```

File: Mathlib/GroupTheory/Torsion.lean
Comment (Multramate) [reply Mathlib/GroupTheory/Torsion.lean]: I guess you plan to do this in a separate refactor but note that all the lemmas are called `_torsion` rather than `_addTorsion`, including the `CommGroup` version

Comment (Multramate) [reply Mathlib/GroupTheory/Torsion.lean]: Also maybe
```suggestion
@[to_additive addTorsion /-- The torsion additive submonoid of an additive commutative monoid. -/]
```
and add the same note that `torsion` has.

File: Mathlib/GroupTheory/Torsion.lean [hunk 16]
```diff
@@ -261,38 +311,51 @@ end CommMonoid
...
-/-- The additive torsion submonoid of an additive torsion monoid is `⊤`. -/]
-theorem torsion_eq_top (tG : IsTorsion G) : torsion G = ⊤ := by ext; tauto
+/-- The torsion additive submonoid of an torsion additive monoid is `⊤`. -/]
+theorem torsion_eq_top (tG : IsMulTorsion G) : torsion G = ⊤ := by ext; tauto
 
 /-- A torsion monoid is isomorphic to its torsion submonoid. -/
-@[to_additive /-- An additive torsion monoid is isomorphic to its torsion submonoid. -/]
-def torsionMulEquiv (tG : IsTorsion G) : torsion G ≃* G :=
+@[to_additive (attr := simps!)
+/-- An torsion additive monoid is isomorphic to its torsion submonoid. -/]
```
Comment (Multramate) [inline Mathlib/GroupTheory/Torsion.lean]:
```suggestion
/-- A torsion additive monoid is isomorphic to its torsion additive submonoid. -/]
```

File: Mathlib/GroupTheory/Torsion.lean [hunk 17]
```diff
@@ -261,38 +311,51 @@ end CommMonoid
...
+  IsAddTorsion.torsionAddEquiv_symm_apply_coe
 
 /-- Torsion submonoids of a torsion submonoid are isomorphic to the submonoid. -/
-@[to_additive (attr := simp) AddCommMonoid.Torsion.ofTorsion
-/-- Additive torsion submonoids of an additive torsion submonoid are
-isomorphic to the submonoid. -/]
-def Torsion.ofTorsion : torsion (torsion G) ≃* torsion G :=
-  Monoid.IsTorsion.torsionMulEquiv CommMonoid.torsion.isTorsion
+@[to_additive (attr := simp)
+/-- Torsion additive submonoids of an torsion additive submonoid are
```
Comment (Multramate) [inline Mathlib/GroupTheory/Torsion.lean]:
```suggestion
/-- Torsion additive submonoids of a torsion additive submonoid are
```

File: Mathlib/GroupTheory/Torsion.lean
Comment (Multramate) [inline Mathlib/GroupTheory/Torsion.lean]:
```suggestion
@[to_additive /-- The torsion additive subgroup of an additive abelian group. -/]
```

File: Mathlib/GroupTheory/Torsion.lean [hunk 18]
```diff
@@ -261,38 +311,51 @@ end CommMonoid
...
-namespace Monoid.IsTorsion
+namespace IsMulTorsion
 
 variable {G}
 
 /-- The torsion submonoid of a torsion monoid is `⊤`. -/
 @[to_additive (attr := simp)
-/-- The additive torsion submonoid of an additive torsion monoid is `⊤`. -/]
-theorem torsion_eq_top (tG : IsTorsion G) : torsion G = ⊤ := by ext; tauto
+/-- The torsion additive submonoid of an torsion additive monoid is `⊤`. -/]
```
Comment (Multramate) [inline Mathlib/GroupTheory/Torsion.lean]:
```suggestion
/-- The torsion additive submonoid of a torsion additive monoid is `⊤`. -/]
```

File: Mathlib/GroupTheory/FiniteAbelian/Basic.lean [hunk 19]
```diff
@@ -158,16 +158,21 @@ lemma equiv_directSum_zmod_of_finite' (G : Type*) [AddCommGroup G] [Finite G] :
...
-theorem finite_of_fg_torsion [CommGroup G] [Group.FG G] (hG : Monoid.IsTorsion G) : Finite G :=
-  @Finite.of_equiv _ _ (AddCommGroup.finite_of_fg_torsion (Additive G) hG) Multiplicative.ofAdd
+@[to_additive existing]
+theorem finite_of_fg_isMulTorsion [CommGroup G] [Group.FG G] (hG : IsMulTorsion G) : Finite G :=
+  @Finite.of_equiv _ _ (AddCommGroup.finite_of_fg_isAddTorsion (Additive G) hG) Multiplicative.ofAdd
+
+@[deprecated (since := "2026-07-01")] alias finite_of_fg_torsion := finite_of_fg_isMulTorsion
 
 /-- The **Structure Theorem For Finite Abelian Groups** in a multiplicative version:
 A finite commutative group `G` is isomorphic to a finite product of finite cyclic groups. -/
```
Comment (Multramate) [inline Mathlib/GroupTheory/FiniteAbelian/Basic.lean]: Maybe?
```suggestion
A finite abelian group `G` is isomorphic to a finite product of finite cyclic groups. -/
```
Seems like we want "commutative monoids" but "abelian groups"

**Review by Multramate — APPROVED** [review]
LGTM otherwise

**Comment by ocfnash** [comment]
Thanks!

In case this might need a merge of master:

bors d+

**Comment by ocfnash** [comment]
But hopefully the follow will just work:

bors merge
